US04713474
A similar procedure to Example 1 is carried out by using 22.8 g of benzyl p-hydroxybenzoate and 8.45 g of glutaric acid dichloride to yield di(p-benzyloxycarbonylphenyl)glutarate, m.p. 93°-94° C., as white crystals.

reactant | benzyl p-hydroxybenzoate | 22.8 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | glutaric acid dichloride | 8.45 g | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
product | di(p-benzyloxycarbonylphenyl)glutarate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(CCCC(=O)OC1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)=O | C33H28O8
